US07151096B2
t-Butyl nitrite (0.87 mL, 6.54 mmol) is added drop-wise to a suspension of N-[3-ethoxycarbonyl-phenyl]-4-(2-amino-4-trifluoromethyl-5-thiazolyl)-2-pyrimidineamine (1.34g, 3.27 mmol) and anhydrous cupric chloride (925 mg, 6.55 mmol) in acetonitrile (15 mL) over 0.5 hours. After stirring at room temperature for 3 hours, water and chloroform are added and the mixture is made acidic with 12N hydrochloric acid. The layers are separated and the aqueous layer is extracted with chloroform. The combined organic extracts are dried over MgSO4, filtered and concentrated. The residue is purified by chromatography on silica gel to give N-[3-ethoxycarbonyl-phenyl]-4-[2-chloro-4-trifluoromethyl-5-thiazolyl]-2-pyrimidineamine (1.1 g); ESI-MS (m/z): 429 (M++H).

reactant | t-Butyl nitrite | 6.54 mmol, 0.87 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | N-[3-ethoxycarbonyl-phenyl]-4-(2-amino-4-trifluoromethyl-5-thiazolyl)-2-pyrimidineamine | 3.27 mmol, 1.34g | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)N)C(F)(F)F | C17H14F3N5O2S
reactant | water | O | H2O
reactant | hydrochloric acid | 12N | Cl | ClH
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[3-ethoxycarbonyl-phenyl]-4-[2-chloro-4-trifluoromethyl-5-thiazolyl]-2-pyrimidineamine | 1.1 g | C(C)OC(=O)C=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)Cl)C(F)(F)F | C17H12ClF3N4O2S
